US09102623B2
A18.1) 6-(2-Chloro-1,1,2,2-tetrafluoroethyl)-2-oxo-1,2-dihydropyridine-3-carboxamide
0.53 g (22.8 mmol) of sodium were dissolved in 50 ml of methanol, 5.0 g (19.0 mmol) of 1-butoxy-5-chloro-4,4,5,5-tetrafluoropent-1-en-3-one and 2.0 g (19.0 mmol) of malonamide were then added and the mixture was heated under reflux for 6 h. The mixture was concentrated, and 1N hydrochloric acid was then added. The resulting precipitate was filtered off with suction and dried. This gave 3.8 g (73% of theory) of a brownish powder.

reactant | sodium | 22.8 mmol, 0.53 g | [Na] | Na
reactant | 1-butoxy-5-chloro-4,4,5,5-tetrafluoropent-1-en-3-one | 19.0 mmol, 5.0 g | C(CCC)OC=CC(C(C(F)(F)Cl)(F)F)=O | C9H11ClF4O2
reactant | malonamide | 19.0 mmol, 2.0 g | C(CC(=O)N)(=O)N | C3H6N2O2
solvent | methanol | 50 ml | CO | CH4O
product | 6-(2-Chloro-1,1,2,2-tetrafluoroethyl)-2-oxo-1,2-dihydropyridine-3-carboxamide | ClC(C(F)(F)C1=CC=C(C(N1)=O)C(=O)N)(F)F | C8H5ClF4N2O2
